US08604211B2
Preparation of 4-[(E)-methoxyimino]-pentanoic acid methyl-(5-pyridin-3-yl-[1,3,4]thiadiazol-2-yl)-amide (Compound 48)
4-[(E)-methoxyimino]-pentanoic acid methyl-(5-pyridin-3-yl-[1,3,4]thiadiazol-2-yl)-amide was prepared as described in J F W Keana et al. in J. Org. Chem., 1985, 50, 2346. A suspension of O-methylhydroxylamine hydrochloride (0.065 g, 0.9 mmol), 4-oxo-pentanoic acid methyl-(5-pyridin-3-yl-[1,3,4]thiadiazol-2-yl)-amide (0.18 g, 0.6 mmol) and sodium acetate (0.076 g, 0.9 mmol) in anhydrous ethanol was refluxed under nitrogen for 14 hours, cooled, concentrated under reduced pressure and chromatographed on silica to afford the title compound as an amorphous yellow solid (0.071 g, 36%): mp 114-121° C.; 1H NMR (400 MHz, CDCl3) δ 9.15 (d, J=1.8 Hz, 1H), 8.70 (dd, J=4.8, 1.8 Hz, 1H), 8.29 (dt, J=5.9, 1.8 Hz, 1H), 7.43 (dd, J=7.7, 5.2 Hz, 1H), 3.92 (s, 3H), 3.86, 3.83 and 3.77 (all s, 1H), 2.95 (q, J=7.0 Hz, 2H), 2.71 (q, J=7.4 Hz, 2H), 2.11, 1.98 and 1.89 (all s, 3H); ESIMS m/z 320 ([M+H]+).

reactant | O-methylhydroxylamine hydrochloride | 0.9 mmol, 0.065 g | Cl.CON
reactant | 4-oxo-pentanoic acid methyl-(5-pyridin-3-yl-[1,3,4]thiadiazol-2-yl)-amide | 0.6 mmol, 0.18 g | CN(C(CCC(C)=O)=O)C=1SC(=NN1)C=1C=NC=CC1 | C13H14N4O2S
reactant | sodium acetate | 0.9 mmol, 0.076 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-[(E)-methoxyimino]-pentanoic acid methyl-(5-pyridin-3-yl-[1,3,4]thiadiazol-2-yl)-amide | 0.071 g, 36% | CN(C(CC/C(/C)=N/OC)=O)C=1SC(=NN1)C=1C=NC=CC1 | C14H17N5O2S
